US08247403B2
(2) 9-(3-furyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-(3-furyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (190 mg, 0.602 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (131 mg, 86.2%) as a solid.

reactant | tert-butyl 9-(3-furyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.602 mmol, 190 mg | O1C=C(C=C1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C18H21NO4
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-(3-furyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 131 mg, 86.2% | Cl.O1C=C(C=C1)C1=CC=CC=2CNCCOC21 | InChI=1S/C13H13NO2.ClH/c1-2-10-8-14-5-7-16-13(10)12(3-1)11-4-6-15-9-11;/h1-4,6,9,14H,5,7-8H2;1H
